US07572820B2
C. 4-Chloro-5-[(phenylmethyl)oxy]-1-(phenylsulfonyl)-1H-indole-2-carbaldehyde
To a solution of 5-[(phenylmethyl)oxy]-1-(phenylsulfonyl)-1H-indole-2-carbaldehyde (3.22 g, 8.22 mmol) in 1:1 AcOH—CH2Cl2 (140 mL) was added sulfuryl chloride (1.24 g, 9.19 mmol) dropwise and the resulting mixture was stirred at rt for 15 h. Additional sulfuryl chloride (0.084 g, 0.62 mmol) was added and stirring was continued for 1 h. The mixture was partially concentrated to ˜1/2 volume under a stream of N2 and the resulting light yellow crystals were collected by filtration and washed sequentially with cold AcOH and hexanes, to afford the title compound (2.58 g, 74% yield): 1H NMR (400 MHz, CDCl3) δ 10.49 (s, 1H), 8.05 (d, J=9.3 Hz, 1H), 7.74 (d, J=7.6 Hz, 2H), 7.58-7.54 (m, 2H), 7.46-7.30 (m, 7H), 7.22 (d, J=9 Hz, 1H), 5.19 (s, 2H).

reactant | 5-[(phenylmethyl)oxy]-1-(phenylsulfonyl)-1H-indole-2-carbaldehyde | 8.22 mmol, 3.22 g | C1(=CC=CC=C1)COC=1C=C2C=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C=O | C22H17NO4S
reactant | sulfuryl chloride | 9.19 mmol, 1.24 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sulfuryl chloride | 0.62 mmol, 0.084 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | AcOH CH2Cl2 | 140 mL | CC(=O)O.C(Cl)Cl
product | 4-Chloro-5-[(phenylmethyl)oxy]-1-(phenylsulfonyl)-1H-indole-2-carbaldehyde | 2.58 g, 74% yield | ClC1=C2C=C(N(C2=CC=C1OCC1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)C=O | C22H16ClNO4S
